US06492401B1
(5-Methyl-2-phenyl-2H-1,2,3-triazole-4-carbonyl)guanidine hydrochloride
Guanidine hydrochloride (2.42 g, 25.32 mmol) was dissolved in 20 ml of anhydrous methanol and then treated with sodium methoxide (1.50 g, 27.83 mmol), added in one portion at room temperature. The reaction mixture was stirred under nitrogen for 1 hour, then filtered under a nitrogen atmosphere. The solids were washed with anhydrous methanol (3×10 ml) and the filtrate concentrated under reduced pressure. Anhydrous benzene (60 ml) was added to the residue, the mixture reconcentrated in vacuo and the residue was dried under high vacuum. Anhydrous dimethylformamide (10 ml), anhydrous tetrahydrofuran (20 ml) and methyl 4-methyl-2-phenyl-2H-1,2,3-triazole-5-carboxylate (1.00 g, 4.60 mmol) were added to the solid residue and the resulting mixture was heated at 70° C. under nitrogen for 7 h, then stirred at ambient temperature overnight. The reddish colored solution was then diluted with water (90 ml) to give the free base corresponding to the title compound as a tan solid (0.53 g, 47% yield).

reactant | Guanidine hydrochloride | 25.32 mmol, 2.42 g | Cl.NC(=N)N
reactant | sodium methoxide | 27.83 mmol, 1.50 g | C[O-].[Na+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | methyl 4-methyl-2-phenyl-2H-1,2,3-triazole-5-carboxylate | 4.60 mmol, 1.00 g | CC1=NN(N=C1C(=O)OC)C1=CC=CC=C1 | C11H11N3O2
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 90 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (5-Methyl-2-phenyl-2H-1,2,3-triazole-4-carbonyl)guanidine hydrochloride | 0.53 g, 47% yield | Cl.CC=1C(=NN(N1)C1=CC=CC=C1)C(=O)NC(=N)N | InChI=1S/C11H12N6O.ClH/c1-7-9(10(18)14-11(12)13)16-17(15-7)8-5-3-2-4-6-8;/h2-6H,1H3,(H4,12,13,14,18);1H
